US07709483B2
(a) 5-(3-Hydroxypropyl)-2-[(E)-2-phenylethenyl]-4(1H)-pyrimidinone
To δ-valerolactone (2.0 g; 20 mmol) in anhydrous diethyl ether (20 ml) was added ethyl formate (1.6 mL; 21 mmol) and sodium hydride (1.0 g of a 60% w:w dispersion in oil, 25 mmol). The reaction was allowed to stir at room temperature under nitrogen for 45 min. A solution of (2E)-3-phenyl-2-propenimidamide (2.92 g; 20 mmol) in EtOH (25 ml) was added, the mixture was then heated to 80° C. and stirred at this temperature for 4 hours. The reaction was cooled to room temperature, water was added (50 mL) and the mixture was extracted with EtOAc (2×200 mL). The combined organic extracts were dried with Na2SO4, the solvents were removed and the crude residues were purified by column chromatography on silica gel using a 0-10% MeOH/DCM gradient. Fractions containing product were concentrated to afford the desired compound (2.3 g, 45%).

reactant | δ-valerolactone | 20 mmol, 2.0 g | C1(CCCCO1)=O | C5H8O2
reactant | ethyl formate | 21 mmol, 1.6 mL | C(=O)OCC | C3H6O2
reactant | sodium hydride | [H-].[Na+]
reactant | (2E)-3-phenyl-2-propenimidamide | 20 mmol, 2.92 g | C1(=CC=CC=C1)/C=C/C(N)=N | C9H10N2
solvent | diethyl ether | 20 ml | C(C)OCC | C4H10O
solvent | EtOH | 25 ml | CCO | C2H6O
solvent | water | O | H2O
product | 5-(3-Hydroxypropyl)-2-[(E)-2-phenylethenyl]-4(1H)-pyrimidinone | 2.3 g, 45% | OCCCC=1C(N=C(NC1)\C=C\C1=CC=CC=C1)=O | C15H16N2O2
